US07199243B2
(R)-2-methyl-5-{1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazole-5-carbonyl]-piperidin-3-yl}-benzonitrile (262 mg, 0.56 mmol) was dissolved in toluene (5 mL). Trimethyltin azide (230 mg, 1.12 mmol) was added and the mixture heated at reflux for 24 h. The mixture was diluted with diethyl ether (100 mL) and washed with 0.1 N HCl (100 mL). The organic phase was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The resultant oil was flash chromatographed with 7.5% methanol/chloroform (0.5% ammonium hydroxide modifier). The product fractions were combined and concentrated under reduced pressure. The resultant oil was taken up in 100 mL ethyl acetate and extracted with 0.1 N HCl (100 mL). The organic phase was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to yield 132 mg (46%) of the desired {3-[4-methyl-3-(1H-tetrazol-5-yl)-phenyl]-piperidin-1-yl}-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-methanone as a clear oil.

reactant | (R)-2-methyl-5-{1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazole-5-carbonyl]-piperidin-3-yl}-benzonitrile | 0.56 mmol, 262 mg | CC1=C(C#N)C=C(C=C1)[C@@H]1CN(CCC1)C(=O)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C | C25H22F3N3OS
reactant | Trimethyltin azide | 1.12 mmol, 230 mg | C[Sn](C)(C)N=[N+]=[N-]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | {3-[4-methyl-3-(1H-tetrazol-5-yl)-phenyl]-piperidin-1-yl}-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-methanone | 132 mg, 46% | CC1=C(C=C(C=C1)C1CN(CCC1)C(=O)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C1=NN=NN1 | C25H23F3N6OS
